US05028645
322.3 g (2.05 mol) of 4-hydroxy-2,2,6,6-tetramethylpiperidine and 146.1 g (1 mol) of dimethyl succinate in 300 ml of xylene are heated to 80° C. 1.2 g of lithium amide are added to the reaction mixture at this temperature, and the temperature is raised to 120°-125° C. A mixture of methanol and xylene is then distilled off slowly under a slow stream of nitrogen. After approx. 10 hours virtually no more methanol distills off, which indicates the end of the transesterification. The contents of the flask are diluted with 500 ml of petroleum ether (boiling range 110°-140° C.) and are washed in the separating funnel while still warm (60°-70° C.) with three times 100 ml of water. The reaction product crystallizes from the organic phase on cooling as colourless crystals. The di-(2,2,6,6-tetramethyl-4-piperidinyl) succinate obtained melts at 118° C.

reactant | 4-hydroxy-2,2,6,6-tetramethylpiperidine | 2.05 mol, 322.3 g | OC1CC(NC(C1)(C)C)(C)C | C9H19NO
reactant | dimethyl succinate | 1 mol, 146.1 g | C(CCC(=O)OC)(=O)OC | C6H10O4
reactant | lithium amide | 1.2 g | [NH2-].[Li+]
reactant | methanol | CO | CH4O
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | di-(2,2,6,6-tetramethyl-4-piperidinyl) succinate | C(CCC(=O)OC1CC(NC(C1)(C)C)(C)C)(=O)OC1CC(NC(C1)(C)C)(C)C | C22H40N2O4
